US05514676
A pressure flask capable of withstanding 150 psi. was added 2-amino-5-fluoro-3-nitrobenzoic acid (1.2 g, 6.0 mmol) dissolved in methanol (40 mL) and 10% palladium on carbon (150 mg). The reaction was placed in a Parr apparatus and the flask flushed three times with hydrogen leaving an internal pressure of 65 psi. The reaction was continued for 17 hours while maintaining a pressure of 65 psi. The reaction was filtered through celite, washed with methanol and the filtrate evaporated to dryness to give 2,3-diamino-5-fluorobenzoic acid (808 mg, 79%) as a dark brown solid.: m.p. 181°-191° (dec); 1H NMR (400 MHz, DMSO-d6 δ 6.43 (dd, 1H), 6.71 (dd, 1H); 13C NMR (100 MHz, DMSO-d6) δ 102.4, 102.7, 104.6, 104.8, 109.3, 109.4, 137.0, 138.5, 138.6, 152.5, 154.8, 170.1.

reactant | 2-amino-5-fluoro-3-nitrobenzoic acid | 6.0 mmol, 1.2 g | NC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])F | C7H5FN2O4
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
product | 2,3-diamino-5-fluorobenzoic acid | 808 mg, 79% | NC1=C(C(=O)O)C=C(C=C1N)F | C7H7FN2O2
